### PR TITLE
[Merged by Bors] - feat(Filter): a finite set is eventually a subset of any exhaustion

### PR DESCRIPTION
**Pull request by YaelDillies**
This will be used to prove a sort of compactness result for finite minors of a graph.

From the ProofBench workshop

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Finite.lean [hunk 1]
```diff
@@ -360,3 +364,8 @@ end EventuallyEq
 end Filter
 
 open Filter
+
+
+namespace Filter
+variable {ι α : Type*} {f : Filter ι} {s : ι → Set α} {t : Set α}
+end Filter
```
Comment (kckennylau) [inline Mathlib/Order/Filter/Finite.lean]: ?

File: Mathlib/Order/Filter/Finite.lean [hunk 2]
```diff
@@ -283,6 +283,10 @@ alias _root_.Finset.eventually_all := eventually_all_finset
 
 -- attribute [protected] Finset.eventually_all
 
+lemma eventually_subset_of_finite_of_tendsto_atTop {ι : Type*} {f : Filter ι} {s : ι → Set α}
+    {t : Set α} (ht : t.Finite) (hs : ∀ a, ∀ᶠ i in f, a ∈ s i) : ∀ᶠ i in f, t ⊆ s i := by
+  simpa [Set.subset_def, eventually_all_finite ht] using fun _ _ ↦ hs _
```
Comment (b-mehta) [inline Mathlib/Order/Filter/Finite.lean]: The more natural statement here would have `(hs : ∀ a ∈ t, ∀ᶠ i in f, a ∈ s i)`, and this also simplifies the proof

Comment (YaelDillies) [reply Mathlib/Order/Filter/Finite.lean]: Is it really more natural? I want to talk about exhaustions, not exhaustions on a set. I originally wanted a statement of the form "`s` tends to `univ`" but this is nonsense as it would imply that `s` is eventually `univ`. Maybe what I am looking for is `Tendsto s f (\nhds[\ne] univ)`, which would make it clearer that your suggestion isn't the right way to conceptualise the lemma.

Comment (b-mehta) [reply Mathlib/Order/Filter/Finite.lean]: I think it is, for example because `eventually_all_finite` is the `iff` version of the statement I gave, and yours is a easy special case of it (in fact, so easy that it's not clear it's worth having this version, but I'm trying to give you the benefit of the doubt here...). Can you say more details about your application? In terms of compactness results relating to graph theory, I've found the formulation I gave above usually the right one, because it's easier to work relatively.

Comment (YaelDillies) [reply Mathlib/Order/Filter/Finite.lean]: Here's the proof where I will use this lemma (with no context):
```
/-- **Compactness of finite minors**

If `H` is a finite minor of `G` and `s` is a filtration of the vertices of `G`, then `H` is a minor
of `G[s i]` for some `i`. -/
lemma eventually_exist_induce_of_eventually_mem_of_finite [Finite W] (M : MinorData H G)
    {ι : Type*} {f : Filter ι} {s : ι → Set V} (hs : ∀ v, ∀ᶠ i in f, v ∈ s i) :
    ∀ᶠ i in f, ∃ N : H.MinorData G[s i], ∀ w, N.branchSet w ⊆ s i ↓∩ M.branchSet w := by
  obtain ⟨N, hNM, hN⟩ := M.exists_le_finite (by simp [Set.toFinite])
  filter_upwards [Filter.eventually_subset_of_finite_of_tendsto_atTop hN.support hs]
  simpa [support] using fun i hi ↦ ⟨N.induce (s i) hi, by simp; intro; gcongr; apply hNM⟩
```
and you see that there is no set `t` in that lemma anymore. Indeed, `t` is set to be `N.support`, and `N` is introduced within the proof.

That lemma is itself used to show that a minor of the quarter grid `hasse ℕ □ hasse ℕ` is a minor of the finite grid `(hasse ℕ □ hasse ℕ).induce (.Iio n × .Iio n)` for some `n`.

Comment (YaelDillies) [reply Mathlib/Order/Filter/Finite.lean]: Ultimately, this doesn't really matter, so I've switched

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
